US07291631B2
A mixture of 3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl 1′-oxide (1.30 g, 7.30 mmol), trimethylsilyl cyanide (1.45 g, 14.6 mmol) and triethyl amine (1.47 g, 14.6 mmol) in dry CH3CN (25 mL) was heated at reflux for 16 h, yielding a red solution. The reaction mixture was then cooled to room temperature, and saturated aqueous NaHCO3 (20 mL) was added. After concentrated under reduced pressure the mixture was extracted with CH2Cl2 (4×30 mL). The extracts were combined and dried over anhydrous Na2SO4. After filtration the solvent was removed by evaporation under vacuum, and the residue was purified by flash chromatography on a silica gel column (CH2Cl2) to afford 3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-2′-carbonitrile as a pale yellow solid (1.26 g, 92%). 1H NMR (CDCl3) δ 1.58-1.66 (m, 2H), 1.75-1.83 (m, 4H), 3.21 (t, 4H, J=5.7 Hz), 7.34-7.38 (m, 2H), 8.19-8.22 (m, 1H).

reactant | 3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl 1′-oxide | 7.30 mmol, 1.30 g | N1(CCCCC1)C=1C=[N+](C=CC1)[O-] | C10H14N2O
reactant | trimethylsilyl cyanide | 14.6 mmol, 1.45 g | C[Si](C)(C)C#N | C4H9NSi
reactant | triethyl amine | 14.6 mmol, 1.47 g | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | 3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-2′-carbonitrile | 1.26 g, 92% | N1(CCCCC1)C=1C(=NC=CC1)C#N | C11H13N3
